US04407753
A solution of 2-(3-bromobutyl)-5-methyl-furan (20.5 g) and 13 g KCN in 100 ml of dry dimethyl sulphoxide was heated during stirring for 16 hours at 50°-55° C. The mixture was cooled, diluted with water and extracted using ether. The extracts were washed with water, dried on anhydrous MgSO4 and boiled down under vacuum. The residue was subjected to chromatographic adsorption over silicagel with hexane/ethyl acetate (9:1) and gave 14.6 g dl-2-methyl-4-(5-methyl-2-furyl)-butane nitrile.

reactant | 2-(3-bromobutyl)-5-methyl-furan | 20.5 g | BrC(CCC=1OC(=CC1)C)C | C9H13BrO
reactant | KCN | 13 g | [C-]#N.[K+]
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methyl-4-(5-methyl-2-furyl)-butane nitrile | CC(C#N)CCC=1OC(=CC1)C | C10H13NO
